US05952150
(C-1) Poly(p-hydroxystyrene) (MW=7,500)
(C-2) Copolymer of p-hydroxystyrene and styrene (copolymerization molar ratio=8:2, Mw=4,000)

reactant | p-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
product | Poly(p-hydroxystyrene) | C#CC1=CC=C(C=C1)O | C8H6O
